US08377923B2
2-methyl-2-(2,4,6-trifluorophenoxy)propanohydrazide (500 mg) and trifluoroacetic acid (0.08 ml) were added to a solution of ethyl 1-[(ethylimino)(methylsulfanyl)methyl]piperidine-4-carboxylate (600 mg) in toluene (10 ml), followed by stirring at 120° C. for 8 hours. An aqueous saturated sodium hydrogen carbonate solution was added to the reaction solution, followed by extraction with ethyl acetate. The organic layer was washed with saturated brine, and dried over anhydrous magnesium sulfate and the solvent was then evaporated. The resulting residue was purified by silica gel column chromatography (using basic silica:hexane:ethyl acetate=100:0 to 50:50 to 0:100) to obtain ethyl 1-{4-ethyl-5-[1-methyl-1-(2,4,6-trifluorophenoxy)ethyl]-4H-1,2,4-triazol-3-yl}piperidine-4-carboxylate (254 mg), as a colorless solid.

reactant | 2-methyl-2-(2,4,6-trifluorophenoxy)propanohydrazide | 500 mg | CC(C(=O)NN)(C)OC1=C(C=C(C=C1F)F)F | C10H11F3N2O2
reactant | trifluoroacetic acid | 0.08 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | ethyl 1-[(ethylimino)(methylsulfanyl)methyl]piperidine-4-carboxylate | 600 mg | C(C)N=C(N1CCC(CC1)C(=O)OCC)SC | C12H22N2O2S
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
product | ethyl 1-{4-ethyl-5-[1-methyl-1-(2,4,6-trifluorophenoxy)ethyl]-4H-1,2,4-triazol-3-yl}piperidine-4-carboxylate | 254 mg | C(C)N1C(=NN=C1C(C)(OC1=C(C=C(C=C1F)F)F)C)N1CCC(CC1)C(=O)OCC | C21H27F3N4O3
